US04007184
To a solution of 8.4 g. (0.1 mole) of diketene in 150 ml. of chloroform is added 21 g. (0.11 mole) of 2-bromoethylamine hydrobromide in 30 ml. of water, and the resulting mixture stirred vigorously at 0° C. while 4.1 g. (0.11 mole) of sodium hydroxide in 20 ml. of water is added dropwise over a period of 20 minutes. The reaction mixture is allowed to stir at room temperature for 1 hour, after which the chloroform layer is separated, dried over anhydrous sodium sulfate and concentrated to dryness in vacuo to yield the intermediate, N-(2-bromoethyl)acetoacetamide, as a white crystalline residue.

reactant | diketene | 0.1 mole | C=C1CC(=O)O1 | C4H4O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 2-bromoethylamine hydrobromide | 0.11 mole | Br.BrCCN
reactant | sodium hydroxide | 0.11 mole | [OH-].[Na+]
solvent | water | O | H2O
product | N-(2-bromoethyl)acetoacetamide | BrCCNC(CC(=O)C)=O | C6H10BrNO2
